US05866568
Oil-free sodium hydride (240 mg) was added to methanol (20 ml) with stirring. When evolution of hydrogen ceased, 2-(4-bromomethylphenyl)-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (549 mg) was added and the mixture was stirred for 2 hours. Volatile material was removed by evaporation and saturated ammonium chloride solution (10 ml) was added to the residue. The mixture was extracted with ethyl acetate (3×20 ml) and the extracts were dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by flash chromatography, eluting with ethyl acetate/hexane (13:7 v/v), to give 2-(4-methoxymethylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (170 mg), m.p. 129°-130° C. (after trituration with ether); microanalysis found: C, 56.9; H, 4.9; N, 13.9%; C19H20N4O4S requires: C, 57.0; H, 5.0; N, 14.0%.

reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-(4-bromomethylphenyl)-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 549 mg | BrCC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C23H25BrN4O5S
reactant | methanol | 20 ml | CO | CH4O
product | 2-(4-methoxymethylphenyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 170 mg | COCC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C | C19H20N4O4S
